US07101868B2
Preparation CLV—2-Chloro-N-[3-(2-methanesulfonylamino-ethoxy)-4-pentafluoroethyl-phenyl]-nicotinamide
To a solution of 381 mg (0.93 mmol) N-[3-(2-amino-ethoxy)-4-pentafluoroethyl-phenyl]-2-chloro-nicotinamide in 10 mL CH2Cl2 at 0° C. was added 0.389 mL Et3N and 0.072 mL (0.93 mmol) methanesulfonylchloride. After 5 min, the reaction was stirred at RT for 30 min. The reaction was diluted with CH2Cl2, washed with brine, dried over Na2SO4, filtered, concentrated, and dried under vacuum, yielding the titled compound as a white foamy solid.

reactant | N-[3-(2-amino-ethoxy)-4-pentafluoroethyl-phenyl]-2-chloro-nicotinamide | 0.93 mmol, 381 mg | NCCOC=1C=C(C=CC1C(C(F)(F)F)(F)F)NC(C1=C(N=CC=C1)Cl)=O | C16H13ClF5N3O2
reactant | Et3N | 0.389 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonylchloride | 0.93 mmol, 0.072 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[3-(2-methanesulfonylamino-ethoxy)-4-pentafluoroethyl-phenyl]-nicotinamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)C(C(F)(F)F)(F)F)OCCNS(=O)(=O)C)C=CC=N1 | C17H15ClF5N3O4S
